US07030116B2
A mixture of 2-Methylene-4-morpholin-4-yl-4-oxo-butyric acid (3.98 g, 20 mmol) and isobutyl-sulphinic acid (2.44 g, 20 mmol) were suspended in anhydrous toluene (80 mL) and anhydrous acetonitrile (20 mL). This mixture was warmed to 85° C. and stirred vigorously for 4.5 h. The reaction mixture was allowed to cool to room temperature and concentrated under vacuum. The residue was purified by flash chromatography using a 90 g silica gel column eluting with 10% methanol/CH2Cl2. Recovered 3.7 g of product as an oil. Triturated residue with isopropanol (5 mL)/ether (100 mL). Product began to precipitate out. Cooled this to 5° C. for 17 hrs(overnight). Product was collected by filtration, washed with ether and dried under vacuum to give 2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid as a white solid (1.8 g).

reactant | 2-Methylene-4-morpholin-4-yl-4-oxo-butyric acid | 20 mmol, 3.98 g | C=C(C(=O)O)CC(=O)N1CCOCC1 | C9H13NO4
reactant | isobutyl-sulphinic acid | 20 mmol, 2.44 g | C(C(C)C)S(=O)O | C4H10O2S
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Methyl-propane-1-sulfonylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid | 1.8 g | CC(CS(=O)(=O)CC(C(=O)O)CC(=O)N1CCOCC1)C | C13H23NO6S
